US04420428
(D) 11β-(Acetyloxy)-9-fluoro-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione
A solution of 3.0 g (6.6 mmole) of 11β-(acetyloxy)-9-fluoro-16α-hydroxy-17,17-bis(methylthio)androsta-1,4-dien-3-one in a solution of dry dimethylsulfoxide (30 ml), acetic anhydride (20 ml) and glacial acetic acid (10 ml) was stirred at room temperature under nitrogen overnight. The resulting solution was poured into cold water and extracted with dichloromethane. The dichloromethane solution was washed with saturated sodium bicarbonate solution and water, dried over anhydrous Na2SO4 and evaporated in vacuo to give 2.9 g of solid, melting point 225°-227° C.

reactant | 11β-(acetyloxy)-9-fluoro-16α-hydroxy-17,17-bis(methylthio)androsta-1,4-dien-3-one | 6.6 mmole, 3.0 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@H](C([C@@]2(C)C1)(SC)SC)O)=O)C)F | C23H31FO4S2
reactant | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 11β-(Acetyloxy)-9-fluoro-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione | 2.9 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC(C([C@@]2(C)C1)(SC)SC)=O)=O)C)F | C23H29FO4S2
